US04218396
N,N"-(1,3-Phenylene)bis[N',N'-bis (1-methylethyl)thiourea]
To a solution of 3.84 g. of 1,3-phenylenediisothiocyanate in 100ml. of acetonitrile is added 4.4 g. of diisopropylamine and the mixture is refluxed for 3 hours. The solvent is removed in vacuo and the residue is crystallized from acetonitrile to yield 3.5 g. of the title compound, melting point 128°-129° C.

reactant | 1,3-phenylenediisothiocyanate | C1(=CC(=CC=C1)N=C=S)N=C=S | C8H4N2S2
reactant | diisopropylamine | C(C)(C)NC(C)C | C6H15N
solvent | acetonitrile | C(C)#N | C2H3N
product | N,N"-(1,3-Phenylene)bis[N',N'-bis (1-methylethyl)thiourea] | C1(=CC(=CC=C1)NC(=S)N(C(C)C)C(C)C)NC(=S)N(C(C)C)C(C)C | C20H34N4S2
